US05576322
2-Ethoxycarbonyl-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline
2.72 g (0.0100 mol) of 2-ethoxycarbonyl-4,6-dichloroquinazoline, 1.75 g (0.0116 mol) of piperonylamine and 1.60 g (0.0151 mol) of sodium carbonate were mixed with 100 ml of isopropyl alcohol. The obtained mixture was heated under reflux for 24 hours and distilled under a reduced pressure to remove the solvent. The residue was purified by silica gel column chromatography and recrystallized from chloroform/n-hexane to give 3.56 g of the title compound as a colorless needle.

reactant | 2-ethoxycarbonyl-4,6-dichloroquinazoline | 0.0100 mol, 2.72 g | C(C)OC(=O)C1=NC2=CC=C(C=C2C(=N1)Cl)Cl | C11H8Cl2N2O2
reactant | piperonylamine | 0.0116 mol, 1.75 g | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
reactant | sodium carbonate | 0.0151 mol, 1.60 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | isopropyl alcohol | 100 ml | C(C)(C)O | C3H8O
product | 2-Ethoxycarbonyl-4-(3,4-methylenedioxybenzyl)amino-6-chloroquinazoline | 3.56 g | C(C)OC(=O)C1=NC2=CC=C(C=C2C(=N1)NCC1=CC2=C(C=C1)OCO2)Cl | C19H16ClN3O4
